US05424456
5-Bromo-2-(3,4-dimethoxyphenyl)-2- isopropyl valeronitrile
To a solution of 50 g of α-allyl-α-isopropyl-3,4-dimethoxy- benzyl cyanide and 2 g of azobisisobutyronitrile in 400 ml of cyclohexane (or n-hexane) gaseous hydrogen bromide was introduced for 70 minutes, when, according to GLC, the reaction mixture did not contain the starting allyl derivative. During the introduction of the hydrogen bromide, the reaction temperature raised to 40° C. The reaction mixture was neutralized with 200 ml of 30% solution of potassium carbonate. The separated cyclohexane solution of the product was washed with water until neutral pH. After drying and evaporating the solvent under diminished pressure, the crude product (61.7 g, 94%) was obtained, which could be used without purification in further reaction step.

reactant | α-allyl-α-isopropyl-3,4-dimethoxy- benzyl cyanide | 50 g | C(C=C)C(C1=CC(=C(C=C1)OC)OC)(C(C)C)C#N | C16H21NO2
reactant | azobisisobutyronitrile | 2 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | hydrogen bromide | Br | BrH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | cyclohexane | 400 ml | C1CCCCC1 | C6H12
solvent | n-hexane | CCCCCC | C6H14
product | 5-Bromo-2-(3,4-dimethoxyphenyl)-2- isopropyl valeronitrile | 61.7 g, 94% | BrCCCC(C#N)(C(C)C)C1=CC(=C(C=C1)OC)OC | C16H22BrNO2
